US05578604
0.46 g of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-5-vinyl-3-quinolinecarboxylic acid, 0.34 g of 4-methylamino-1,3,3a,4,7,7a-hexahydro-isoindole and 0.18 g of DABCO are refluxed for 2 hours in a mixture of 3 ml of acetonitrile and 1.5 ml of dimethylformamide. At room temperature, the reaction mixture is treated with 20 ml of water, and the product is filtered off with suction, washed with water and dried. 0.5 g of 7-(4-methylamino-1,3,3a,4,7,7a-hexahydro-isoindol-2-yl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-5-vinyl-3-quinolinecarboxylic acid is obtained.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-5-vinyl-3-quinolinecarboxylic acid | 0.46 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)C=C)=O)C(=O)O | C15H10F3NO3
reactant | 4-methylamino-1,3,3a,4,7,7a-hexahydro-isoindole | 0.34 g | CNC1C2CNCC2CC=C1 | C9H16N2
reactant | DABCO | 0.18 g | C1CN2CCN1CC2 | C6H12N2
reactant | water | 20 ml | O | H2O
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 7-(4-methylamino-1,3,3a,4,7,7a-hexahydro-isoindol-2-yl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-5-vinyl-3-quinolinecarboxylic acid | 0.5 g | CNC1C2CN(CC2CC=C1)C1=C(C(=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)C=C)F | C24H25F2N3O3
